US05240939
Dihydroxyethyl-isopropylamine (15.06 g, 102.3 mmol) was combined with triethylamine (45.6 ml, 327.35 mmol) and 4-dimethylaminopyridine (1.26 g, 10.23 mmol) in dichloromethane (210 ml). The mixture was cooled, and a solution of acryloyl chloride (1.26 g, 102.23 mmol) in dichloromethane (75 ml) added thereto dropwise over 30 minutes. The mixture was allowed to warm to room temperature and stirring was continued over 21 hours. Water (125 ml) was added, stirring was continued for a further 10 minutes after which the mixture was extracted with ether (375 ml). The extract was dried over sodium sulfate and concentrated to produce an oil which was flash chromotographed on silica gel using hexane/ethyl acetate (97/3) as the elutent. After 6 liters of the elutent had been used, the polarity of the elutent was increased by changing the mixture to 90/10. There was obtained 16 g (62%) of isopropyl-di(acrylylethyl)amine as a clear oil.

reactant | Dihydroxyethyl-isopropylamine | 102.3 mmol, 15.06 g | OC(CNC(C)C)O | C5H13NO2
reactant | triethylamine | 327.35 mmol, 45.6 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 102.23 mmol, 1.26 g | C(C=C)(=O)Cl | C3H3ClO
reactant | Water | 125 ml | O | H2O
reactant | dichloromethane | 210 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 75 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 10.23 mmol, 1.26 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | isopropyl-di(acrylylethyl)amine | 16 g, 62% | C(C)(C)N(CCC(C=C)=O)CCC(C=C)=O | C13H21NO2
